US08633322B2
tert-Butyl 4-(3-(5-(1,3-dioxoisoindolin-2-yl)pent-1-ynyl)-5-methoxyphenoxy)piperidine-1-carboxylate (0.500 g, 0.97 mmol) and hydrazine monohydrate (0.094 mL, 1.94 mmol) were taken up into ethanol (5 mL) and the resulting mixture was stirred at 80° C. for 2.5 hours. The resulting mixture was filtered and the solvent was removed in vacuo to yield tert-butyl 4-(3-(5-aminopent-1-ynyl)-5-methoxyphenoxy)piperidine-1-carboxylate. MH+ 388.2

reactant | tert-Butyl 4-(3-(5-(1,3-dioxoisoindolin-2-yl)pent-1-ynyl)-5-methoxyphenoxy)piperidine-1-carboxylate | 0.97 mmol, 0.500 g | O=C1N(C(C2=CC=CC=C12)=O)CCCC#CC=1C=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C(C1)OC | C30H34N2O6
reactant | hydrazine monohydrate | 1.94 mmol, 0.094 mL | O.NN
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | tert-butyl 4-(3-(5-aminopent-1-ynyl)-5-methoxyphenoxy)piperidine-1-carboxylate | NCCCC#CC=1C=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C(C1)OC | C22H32N2O4
